US07855202B2
6-(3-Fluoropyridin-4-yl)-2-(1-methyl-1H-imidazol-5-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine
A solution of N-(6′-amino-3″-fluoro-3,2′:3′,4″-terpyridin-5′-yl)-1-methyl-1H-imidazole-5-carboxamide (0.040 g, 0.103 mmol) in acetic acid (1 mL) was heated in a sealed tube at 118° C. for 16 h. The solvent was evaporated and 4% sodium bicarbonate aqueous solution was added and extracted with ethyl acetate. The organic layer was dried and evaporated to give the title compound (0.022 g, 58% of yield).

reactant | N-(6′-amino-3″-fluoro-3,2′:3′,4″-terpyridin-5′-yl)-1-methyl-1H-imidazole-5-carboxamide | 0.103 mmol, 0.040 g | NC1=C(C=C(C(=N1)C=1C=NC=CC1)C1=C(C=NC=C1)F)NC(=O)C1=CN=CN1C | C20H16FN7O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 6-(3-Fluoropyridin-4-yl)-2-(1-methyl-1H-imidazol-5-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine | 0.022 g, 58% | FC=1C=NC=CC1C=1C=C2C(=NC1C=1C=NC=CC1)NC(=N2)C2=CN=CN2C | C20H14FN7
